US04439440
A solution of 125.3 g of 4-isopropoxycarbonylaniline in 160 ml of dioxane was added dropwise within 30 minutes at 0°-10° C. to a solution of 100 ml of phosgene in 300 ml of dioxane while stirring. The reaction mixture was then stirred at 20° C. for 30 minutes and then heated to boiling; the solvent was distilled off and the residue was distilled under reduced pressure. The desired 4-isopropoxycarbonylphenyl isocyanate was obtained in a yield of 136.8 g; boiling point 87°-88° C./0.2 mm.

reactant | 4-isopropoxycarbonylaniline | 125.3 g | C(C)(C)OC(=O)C1=CC=C(N)C=C1 | C10H13NO2
reactant | phosgene | 100 ml | C(=O)(Cl)Cl | CCl2O
solvent | dioxane | 160 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 4-isopropoxycarbonylphenyl isocyanate | C(C)(C)OC(=O)C1=CC=C(C=C1)N=C=O | C11H11NO3
